US04255428
2-[2-(2-Thiazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone in 2N hydrogen chloride in ethanol was boiled under reflux for 24 hours. The mixture was evaporated to dryness and the residue was recrystallised from 2-propanol/ethanol containing hydrogen chloride to give 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(6-hydroxy-3-pyridylmethyl)-4-pyrimidone trihydrochloride, m.p. 200-204°.

reactant | 2-[2-(2-Thiazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C17H19N5O2S2
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(6-hydroxy-3-pyridylmethyl)-4-pyrimidone trihydrochloride | Cl.Cl.Cl.S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)O | InChI=1S/C16H17N5O2S2.3ClH/c22-13-2-1-11(8-19-13)7-12-9-20-16(21-15(12)23)18-3-5-24-10-14-17-4-6-25-14;;;/h1-2,4,6,8-9H,3,5,7,10H2,(H,19,22)(H2,18,20,21,23);3*1H
